US04027038
4-(p-Nitrobenzamido)-1,5-naphthalenedisulfonic acid disodium salt
A 25.0 g portion of 4-amino-1,5-naphthalenedisulfonic acid sodium salt is suspended in 100 ml of water and 80 ml of 1N sodium hydroxide is added, then 31.0 g of p-nitrobenzoylchloride is added all at once. The mixture is shaken for about 15 minutes and another 80 ml of 1N sodium hydroxide is added with additional shaking. The latter addition of sodium hydroxide and shaking is repeated three more times with the incorporation of 50 ml of water and 25 ml of ether. The final solution remains basic after about 30 minutes of shaking and is then acidified with 20 ml of concentrated hydrochloric acid (which is indicated by a deep blue color to Congo Red test paper). The solution is then diluted to one liter with water and is then extracted with 500 ml of ether. The emulsified ether phase is removed by vacuum siphoning. The ether extraction is repeated 8 additional times with 250 ml portions of ether. The aqueous phase is neutralized with 5N sodium hydroxide and the insoluble fraction is removed by filtration and is washed with 100 ml of 80% ethyl alcohol followed by 100 ml of absolute ethyl alcohol. The washes are combined with the filtrate obtained above and the combined solution is evaporated in vacuo at 55°-60° C. to about 500 ml. The solution is cooled to room temperature and the resultant crystalline material is collected by filtration and is washed consecutively with two 100 ml portions of 90% ethyl alcohol, 100 ml of absolute ethyl alcohol and two 100 ml portions of ether. The product of the example is then oven dried at 120° C. overnight.

reactant | 4-amino-1,5-naphthalenedisulfonic acid sodium salt | [Na+].NC1=CC=C(C=2C=CC=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 1N, 80 ml | [OH-].[Na+]
reactant | p-nitrobenzoylchloride | 31.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | sodium hydroxide | 1N, 80 ml | [OH-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 4-(p-Nitrobenzamido)-1,5-naphthalenedisulfonic acid disodium salt | [Na+].[Na+].[N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=C(C=3C=CC=C(C23)S(=O)(=O)[O-])S(=O)(=O)[O-])C=C1 | InChI=1S/C17H12N2O9S2.2Na/c20-17(10-4-6-11(7-5-10)19(21)22)18-13-8-9-14(29(23,24)25)12-2-1-3-15(16(12)13)30(26,27)28;;/h1-9H,(H,18,20)(H,23,24,25)(H,26,27,28);;/q;2*+1/p-2
